US07005282B2
1.2 equivalents of HPF6 were slowly added to 1-(3-phenylpropyl)-3-methylimidazolium chloride under ice cooling. After stirring for 30 minutes, the mixture was extracted with methylene chloride (MC) three times. The extract was dried over anhydrous sodium sulfate and concentrated to obtain 1-(3-phenylpropyl)3-methylimidazolium hexafluorophosphate (mp 52˜53° C., yield 78%).

reactant | HPF6 | 1.2 equivalents | [H+].F[P-](F)(F)(F)(F)F
reactant | 1-(3-phenylpropyl)-3-methylimidazolium chloride | [Cl-].C1(=CC=CC=C1)CCC[N+]1=CN(C=C1)C
product | 1-(3-phenylpropyl)3-methylimidazolium hexafluorophosphate | yield 78% | F[P-](F)(F)(F)(F)F.C1(=CC=CC=C1)CCC[N+]1=CN(C=C1)C | InChI=1S/C13H17N2.F6P/c1-14-10-11-15(12-14)9-5-8-13-6-3-2-4-7-13;1-7(2,3,4,5)6/h2-4,6-7,10-12H,5,8-9H2,1H3;/q+1;-1
